* Z:\mnt\design.r\spice\examples\160.asc
I6 0 CLK PULSE(0 1 0 0 0 .5M 1M)
I3 0 C 1.
I5 0 ENP 1.
I2 0 _LD PWL(0 1 4.5M 1 4.51M 0 5.5M 0 5.51M 1 6.5M 1)
I1 0 _CLR PWL(0 1 1.5M 1 1.51M 0 2.5M 0 2.51M 1 3.5M 1)
R5 CLK 0 1.
R3 C 0 1.
R4 ENP 0 1.
R2 _LD 0 1.
R1 _CLR 0 1.
A39 N010 0 0 0 0 N005 0 0 BUF
A37 _LD 0 0 0 0 N010 0 0 BUF
A42 _CLR 0 0 0 0 N011 0 0 BUF
A23 N035 0 0 0 0 N036 0 0 BUF
A22 N031 0 0 0 0 N033 0 0 BUF
A15 N023 0 0 0 0 N024 0 0 BUF
A16 N022 0 0 0 0 N026 0 0 BUF
A9 N013 0 0 0 0 N017 0 0 BUF
A8 N015 0 0 0 0 N016 0 0 BUF
A7 N001 0 0 0 0 N006 0 0 BUF
A6 N002 0 0 0 0 N003 0 0 BUF
A38 QD 0 QA 0 ENP 0 RC 0 AND
A41 0 _LD ENP ENP 0 0 N001 0 AND
A29 0 QA 0 N005 0 0 N002 0 AND
A1 0 N001 0 N003 0 N004 0 0 AND
A3 0 0 0 N010 0 N008 0 0 AND
A2 0 N002 0 N006 0 N007 0 0 AND
A4 0 N004 N007 N008 0 N009 0 0 AND TD=10N
A10 N012 0 N013 0 N016 N014 0 0 AND
A31 0 QA 0 N001 0 0 N013 0 AND
A30 0 QB 0 N005 0 0 N015 0 AND
A12 0 0 0 N010 0 N019 0 0 AND
A11 0 N015 0 N017 0 N018 0 0 AND
A13 0 N014 N018 N019 0 N020 0 0 AND TD=10N
A33 0 QB QA N001 0 0 N022 0 AND
A32 0 QC 0 N005 0 0 N023 0 AND
A17 0 N022 0 N024 0 N025 0 0 AND
A19 0 C 0 N010 0 N028 0 0 AND
A18 0 N023 0 N026 0 N027 0 0 AND
A20 0 N025 N027 N028 0 N029 0 0 AND TD=10N
A26 0 C 0 N010 0 N038 0 0 AND
A35 QC QB 0 QA N001 0 N032 0 AND
A34 0 QD 0 N005 0 0 N031 0 AND
A36 0 QA 0 N001 0 0 N035 0 AND
A24 0 N032 0 N033 0 N034 0 0 AND
A25 0 N031 0 N036 0 N037 0 0 AND
A27 0 N034 N037 N038 0 N039 0 0 AND TD=10N
A5 N009 0 CLK 0 N011 0 QA 0 DFLOP
A14 N020 0 CLK 0 N011 0 QB 0 DFLOP
A21 N029 0 CLK 0 N011 0 QC 0 DFLOP
A28 N039 0 CLK 0 N011 N012 QD 0 DFLOP
* 74160 decade counter
.tran 1u 100m
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
